US08664220B2
Step 1: Phenyl-acetic acid hydrazide
Phenyl-acetic acid methyl ester (5 g, 33.3 mmol) was dissolved in hydrazine hydrate (25 mL) and EtOH (50 mL) and the reaction was heated in a sealed tube to 80° C. overnight. After cooling the reaction was concentrated to afford the title compound.

reactant | Phenyl-acetic acid methyl ester | 33.3 mmol, 5 g | COC(CC1=CC=CC=C1)=O | C9H10O2
reactant | EtOH | 50 mL | CCO | C2H6O
reactant | hydrazine hydrate | 25 mL | O.NN
product | Phenyl-acetic acid hydrazide | C1(=CC=CC=C1)CC(=O)NN | C8H10N2O
